US07091357B2
To a stirred solution of (S)-nicotine (0.43 g, 2.6 mmol) in AcOH (10 ml) was added (6-bromo-hexyl)-cyclopentane (1.50 g, 6.44 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-1-(6-cyclopentyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NCyNB-5) (0.68 g, 54%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.74 (1H, s), 10.52 (1H, s), 9.62 (1H, d, J=8.4 Hz), 8.99 (1H, d, J=6.0 Hz), 8.29 (1H, dd, J=7.8, 6.3 Hz), 5.80 (1H, m), 4.78 (2H, m), 4.01 (1H, m), 3.35 (1H, m), 2.98 (3H, d, J=5.1 Hz), 2.76 (1H, m), 2.45 (3H, m), 2.15 (2H, m), 1.70 (3H, m), 1.15–1.60 (12H, m), 1.02 (2H, m); 13C NMR (75 MHz, CDCl3) δ 147.78, 146.78, 144.41, 134.94, 128.90, 67.03, 63.14, 56.10, 40.26, 38.72, 36.23, 32.96, 32.11, 31.82, 29.48, 28.77, 26.55, 25.43, 21.89; Anal. Calcd for C21H36Br2N2.0.2H2O: C, 52.55; H, 7.64; N, 5.84. Found: C, 52.41; H, 7.56; N, 5.78.

reactant | (S)-nicotine | 2.6 mmol, 0.43 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | (6-bromo-hexyl)-cyclopentane | 6.44 mmol, 1.50 g | BrCCCCCCC1CCCC1 | C11H21Br
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (S)-1-(6-cyclopentyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt | 0.68 g, 54% | Br.[Br-].C1(CCCC1)CCCCCC[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C | InChI=1S/C21H35N2.2BrH/c1-22-15-9-14-21(22)20-13-8-17-23(18-20)16-7-3-2-4-10-19-11-5-6-12-19;;/h8,13,17-19,21H,2-7,9-12,14-16H2,1H3;2*1H/q+1;;/p-1/t21-;;/m0../s1
